US08232284B2
2-(2-Bromoethyl)-1,3-dioxolane (2.49 ml, 19.9 mmol) and cesium carbonate (15.1 g, 46.4 mmol) were added to an N,N-dimethylacetamide solution (25 ml) of 6-fluoropyridin-3-ol (1.5 g, 13.3 mmol), and stirred under a nitrogen atmosphere at 100° C. for 12 hours. The reaction solution was cooled with ice, water and ethyl acetate were added, and the organic layer was washed with water and saturated saline water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Biotage, hexane:ethyl acetate=5:1 to 1:1) to obtain 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine (2.43 g, yield: 86%) as a colorless oil.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 19.9 mmol, 2.49 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | cesium carbonate | 46.4 mmol, 15.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylacetamide | 25 ml | CN(C(C)=O)C | C4H9NO
reactant | 6-fluoropyridin-3-ol | 13.3 mmol, 1.5 g | FC1=CC=C(C=N1)O | C5H4FNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2-fluoropyridine | 2.43 g, yield: 86% | O1C(OCC1)CCOC=1C=CC(=NC1)F | C10H12FNO3
